US07482349B2
Preparation of 2-Amino-5-[4-fluoro-3-(5-fluoropyridin-3-yl)phenyl]-5-[3-fluoro-4-(trifluoromethoxy)phenyl]-3-methyl-3,5-dihydro-imidazol-4-one
A mixture of 2-amino-5-(3-bromo-4-fluorophenyl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]-3-methyl-3,5-dihydroimidazol-4-one (0.17 g, 0.366 mmol), 5-fluorpyridin-3-yl-tri(n-butyl)stannate (0.212 g, 0.55 mmol) and bis(triphenylphosphino)palladium(II) chloride (0.013 g, 0.018 mmol) in dimethyl formamide is degassed, heated at 150° C. for 1 h, cooled to room temperature and diluted with ethyl acetate and 2% aqueous lithium chloride. The organic phase is separated, washed with 2% aqueous lithium chloride, dried over sodium sulfate and concentrated in vacuo. Purification of the resultant residue by flash chromatography (silica, 97:3:0.25 methylene chloride/methanol/concentrated ammonium hydroxide as eluent) affords the title compound as a white solid, 0.130 g (74% yield), mp 91-97° C.; identified by HNMR and mass spectral analyses. 1H NMR (300 MHz, CD3OD) 8.55 (m, 1H), 8.49 (d, J=3.0 Hz, 1H), 7.83 (d, J=9.6 Hz, 1H), 7.60-7.21 (m, 6H), 3.13 (s, 3H); IR (ATR) 3352, 3070, 1732, 1669, 1598, 2502, 1479, 1421, 1252, 1217, 1171, 883, 817, 794, 703 cm−1; ESI MS m/z 481

reactant | 2-amino-5-(3-bromo-4-fluorophenyl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]-3-methyl-3,5-dihydroimidazol-4-one | 0.366 mmol, 0.17 g | NC1=NC(C(N1C)=O)(C1=CC(=C(C=C1)OC(F)(F)F)F)C1=CC(=C(C=C1)F)Br | C17H11BrF5N3O2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphino)palladium(II) chloride | 0.018 mmol, 0.013 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 2-Amino-5-[4-fluoro-3-(5-fluoropyridin-3-yl)phenyl]-5-[3-fluoro-4-(trifluoromethoxy)phenyl]-3-methyl-3,5-dihydro-imidazol-4-one | 74% yield | NC1=NC(C(N1C)=O)(C1=CC(=C(C=C1)OC(F)(F)F)F)C1=CC(=C(C=C1)F)C=1C=NC=C(C1)F | C22H14F6N4O2
